US06169107A
A mixture of 4.00 g (18.3 mmol) of ethyl 7-amino-1-methyl-2-indolecarboxylate, 7.60 g (37.6 mmol) of 3-(benzyloxycarbonylamino)propion aldehyde, 2.43 g (38.6 mmol) of sodium cyanoborohydride, 2.1 ml of acetic acid, 5.0 g of molecular sieves 3A and 200 ml of methanol was stirred at room temperature for 4.5 hours. After 28% ammonia water was added to the reaction solution to render the system alkaline, the reaction mixture was extracted three times with ethyl acetate. The combined extracts were then washed with saturated sodium chloride aqueous solution. After drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was suspended in 100 ml of ethanol. After 6.40 g (101 mmol) of ammonium formate and 0.91 g of 10% palladium/carbon were added to the suspension, the mixture was heated to reflux for 8 hours. Insoluble matters were filtered off and the filtrate was concentrated under reduced pressure. The thus obtained residue was isolated and purified by silica gel column chromatography to give 1.04 g (24.6%) of ethyl 7-[(3-aminopropyl)amino]-1-methyl-2-indolecarboxylate.

reactant | ethyl 7-amino-1-methyl-2-indolecarboxylate | 18.3 mmol, 4.00 g | NC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C12H14N2O2
reactant | 3-(benzyloxycarbonylamino)propion aldehyde | 37.6 mmol, 7.60 g | C(C1=CC=CC=C1)OC(=O)NCCC=O | C11H13NO3
reactant | sodium cyanoborohydride | 38.6 mmol, 2.43 g | C(#N)[BH3-].[Na+]
reactant | ammonia water | O.N
reactant | ammonium formate | 101 mmol, 6.40 g | C(=O)[O-].[NH4+]
catalyst | palladium/carbon | 0.91 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 2.1 ml | C(C)(=O)O | C2H4O2
product | ethyl 7-[(3-aminopropyl)amino]-1-methyl-2-indolecarboxylate | 1.04 g, 24.6% | NCCCNC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C15H21N3O2
